US08067448B2
2-chloro-4-((1R,2S)-1-(5-(3-fluoro-4-hydroxyphenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-3-methylbenzonitrile
4-((1R,2S)-2-(tert-butyldimethylsilyloxy)-1-(5-(4-(tert-butyldimethylsilyloxy)-3-fluoro-phenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile (130 mg, 0.21 mmol) using tetrabutylammonium fluoride (1.0 M solution in THF, 0.62 mL, 0.62 mmol) in a procedure analogous to that used for the preparation of example 7. After column chromatography (50% EtOAc/hexanes) the title compound was isolated as a white solid (743 mg, 88%). 1H NMR (400 MHz, CDCl3, δ in ppm) 7.49 (m, 2H), 7.16 (m, 1H), 6.89 (d, J=8.6 Hz, 1H), 5.67 (d, J=8.6 Hz, 1H), 5.08 (dd, J=3.7, 8.4 Hz, 1H), 4.61 (m, 1H), 2.98 (br s, 1H), 2.40 (s, 3H), 1.40 (d, J=6.3 Hz, 3H).

reactant | 4-((1R,2S)-2-(tert-butyldimethylsilyloxy)-1-(5-(4-(tert-butyldimethylsilyloxy)-3-fluoro-phenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile | 0.21 mmol, 130 mg | [Si](C)(C)(C(C)(C)C)O[C@H]([C@H](C=1OC(=NN1)C1=CC(=C(C=C1)O[Si](C)(C)C(C)(C)C)F)NC1=C(C(=C(C#N)C=C1)Cl)C)C | C31H44ClFN4O3Si2
reactant | tetrabutylammonium fluoride | 0.62 mmol, 1.0 M, 0.62 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-chloro-4-((1R,2S)-1-(5-(3-fluoro-4-hydroxyphenyl)-1,3,4-oxadiazol-2-yl)-2-hydroxypropylamino)-3-methylbenzonitrile | ClC1=C(C#N)C=CC(=C1C)N[C@H]([C@H](C)O)C=1OC(=NN1)C1=CC(=C(C=C1)O)F | C19H16ClFN4O3
